US05595995
a) 2-(4-Pyridyl)propan-2-ol
A solution of methyllithium (1.4 M; 30 ml, 42 mmol) in diethyl ether was added dropwise to a stirred solution of 4-acetylpyridine (4.65 ml, 42 mmol) in dry THF (100 ml) at -76° C., and the deep blue solution allowed to reach ambient temperature. After 24 hours the mixture was partitioned between ether and saturated aqueous sodium bicarbonate, and the ether phase was concentrated. Chromatography, on elution with ethyl acetate-dichloromethane-triethylamine 60:40:1, gave the title compound (2.59 g, 45%) as an oil. 1H-NMR (CDCl3) δ1.58 (6H, s, CMe2), 7.40 (2H, d, J 6.2 Hz, Py 3 and 5-H), 8.55 (2H, d, J 6.2 Hz, Py 2 and 6-H); MS m/z 137 (M+).

reactant | methyllithium | 42 mmol, 1.4 M, 30 ml | C[Li]
reactant | 4-acetylpyridine | 42 mmol, 4.65 ml | C(C)(=O)C1=CC=NC=C1 | C7H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(4-Pyridyl)propan-2-ol | 2.59 g, 45% | N1=CC=C(C=C1)C(C)(C)O | C8H11NO
